US07943622B2
Step 1. Synthesis of 4-nitrophenyl benzo[d]thiazol-6-ylcarbamate hydrochloride
6-Aminobenzothiazole (100 mg, 0.666 mmol) and p-nitrophenyl chloroformate (148 mg, 0.733 mmol) were stirred at rt in CH2Cl2 (5 mL) overnight. The resulting solid was collected by filtration, yielding 183 mg (81%) of the title compound. LC-MS: RT=8.17 min, [M+H]+=316.0.

reactant | 6-Aminobenzothiazole | 0.666 mmol, 100 mg | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | p-nitrophenyl chloroformate | 0.733 mmol, 148 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl benzo[d]thiazol-6-ylcarbamate hydrochloride | 183 mg, 81% | Cl.S1C=NC2=C1C=C(C=C2)NC(OC2=CC=C(C=C2)[N+](=O)[O-])=O | InChI=1S/C14H9N3O4S.ClH/c18-14(21-11-4-2-10(3-5-11)17(19)20)16-9-1-6-12-13(7-9)22-8-15-12;/h1-8H,(H,16,18);1H
